US07135500B2
b) 4-{2-[1,1-dimethyl-2-(2,6-dimethyl-4-hydroxyphenyl)ethylamino]-1-hydroxyethyl}-3-methylbenzene-1,2-diol
7 g of 2-[1,1-dimethyl-2-(2,6-dimethylhydroxyphenyl)ethylamino]-1-(3,4-dibenzyloxy-2-methylphenyl)ethanone hydrochloride in 125 mL of methanol is hydrogenated using 2 g of palladium on charcoal (5%). After separation of the catalyst, the solvent is distilled off. The solid that crystallizes out is stirred into acetonitrile, suction filtered, and washed. Yield: 3.5 g of hydrochloride; melting point: 182° C.–183° C. (decomposition).

reactant | 2-[1,1-dimethyl-2-(2,6-dimethylhydroxyphenyl)ethylamino]-1-(3,4-dibenzyloxy-2-methylphenyl)ethanone hydrochloride | 7 g | Cl.CC(CC1=C(C(=CC=C1C)O)C)(C)NCC(=O)C1=C(C(=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)C
reactant | methanol | 125 mL | CO | CH4O
catalyst | palladium on charcoal | 2 g | [Pd] | Pd
product | 4-{2-[1,1-dimethyl-2-(2,6-dimethyl-4-hydroxyphenyl)ethylamino]-1-hydroxyethyl}-3-methylbenzene-1,2-diol | CC(CC1=C(C=C(C=C1C)O)C)(C)NCC(O)C=1C(=C(C(=CC1)O)O)C | C21H29NO4
